US07642264B2
5-{3-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-phenyl}-thiophene-2-sulfonic acid amide
The title compound was prepared from 3-[6-methyl-4-(4-trifluoromethyl-phenyl)pyridin-2-yl]-benzeneboronic acid (example G.9) (0.40 g, 1.1 mmol) and commercially available 5-bromo-thiophene-2-sulfonic acid amide (0.478 g, 2.4 mmol) according to the general procedure VI. Obtained as a white solid (0.180 g, 42%). MS (ISP) 475.2 [(M+H)+]; mp 215° C.

reactant | 3-[6-methyl-4-(4-trifluoromethyl-phenyl)pyridin-2-yl]-benzeneboronic acid | 1.1 mmol, 0.40 g | CC1=CC(=CC(=N1)C=1C=C(C=CC1)B(O)O)C1=CC=C(C=C1)C(F)(F)F | C19H15BF3NO2
reactant | 5-bromo-thiophene-2-sulfonic acid amide | 2.4 mmol, 0.478 g | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-{3-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-phenyl}-thiophene-2-sulfonic acid amide | CC1=CC(=CC(=N1)C=1C=C(C=CC1)C1=CC=C(S1)S(=O)(=O)N)C1=CC=C(C=C1)C(F)(F)F | C23H17F3N2O2S2
